US09062015B2
FS103: 4-[2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyrimidin-4-yl]piperazine-1-carboxylic acid tert-butyl ester
2.6 ml of toluene/ethanol (4:1) and 335 μl of 2N potassium carbonate solution are added to 100 mg (0.33 mmol) of 4-(2-chloropyrimidin-4-yl)piperazine-1-carboxylic acid tert-butyl ester (preparation analogous to US 2005/176722) and 147 mg (0.47 mmol) of 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane. The reaction mixture is degassed a number of times, 16 mg (0.01 mmol) of tetrakis(triphenylphosphine)palladium(0) are added under nitrogen atmosphere, the mixture is treated in an ultrasound bath for 10 min and subsequently irradiated in the microwave at 140° C. for 10 min. Water and dichloromethane are added to the reaction mixture. The organic phase is separated off, and the aqueous phase is extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated. The crude product is purified by means of flash chromatography on silica gel.

reactant | toluene ethanol | 2.6 ml | C1(=CC=CC=C1)C.C(C)O
reactant | potassium carbonate | 2N, 335 μl | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloropyrimidin-4-yl)piperazine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)Cl | C13H19ClN4O2
reactant | 4,4,5,5-tetramethyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-1,3,2-dioxaborolane | 0.47 mmol, 147 mg | CC1(OB(OC1(C)C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C | C20H31BO2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 4-[2-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyrimidin-4-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C27H38N4O2
